US08076324B2
4-(4-Fluorophenyl)-4-methoxy-1-phenylcyclohexanecarbonitrile
300 mg of 4-(4-fluorophenyl)-4-hydroxy-1-phenylcyclohexanecarbonitrile were dissolved in 2.5 ml of dry DMF in a flask which had been dried and flushed with argon, treated under argon with 73 mg of sodium hydride (80% strength in mineral oil) and stirred for 30 min at room temperature. Subsequently, 0.14 ml of iodomethane was slowly added dropwise under argon. The reaction mixture was stirred for 3 h, then treated with water and extracted with EA. The combined organic phases were dried over magnesium sulfate and the solvent was removed in vacuo. The crude product, a brown oil, was purified by chromatography on silica gel using HEP/EA (2:1). 290 mg of the title compound were obtained as a white amorphous solid.

reactant | 4-(4-fluorophenyl)-4-hydroxy-1-phenylcyclohexanecarbonitrile | 300 mg | FC1=CC=C(C=C1)C1(CCC(CC1)(C#N)C1=CC=CC=C1)O | C19H18FNO
reactant | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 4-(4-Fluorophenyl)-4-methoxy-1-phenylcyclohexanecarbonitrile | 290 mg | FC1=CC=C(C=C1)C1(CCC(CC1)(C#N)C1=CC=CC=C1)OC | C20H20FNO
